US04714774
A solution of 4-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-3-fluorobenzoic acid (220 mg) in chloroform (2 ml) and thionyl chloride (0.4 ml) was refluxed for 20 minutes, then the solvent was removed under reduced pressure. To the residue was added toluene, and then the solvent was removed under reduced pressure. To the residue thus obtained was added acetone (5 ml), 3-dimethylaminopropanol (70 mg) and triethylamine (0.25 ml), and the mixture was refluxed for 0.5 hour. The precipitated colorless crystals were removed by filtration, and the filtrate was concentrated. The residue was dissolved in chloroform, and the solution was washed once with a saturated sodium hydrogen carbonate, and dried with sodium sulfate. The solvent was removed by evaporation and to the cooled residue was added hexane to give colorless crystals of 3-dimethylaminopropyl 4-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-3-fluorobenzoate (140 mg). m.p. 55°-56° C.

reactant | 4-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-3-fluorobenzoic acid | 220 mg | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C=C(C(=O)O)C=C2)F)C=C1)CCC)O | C21H23FO6
reactant | acetone | 5 ml | CC(=O)C | C3H6O
reactant | 3-dimethylaminopropanol | 70 mg | CN(CCCO)C | C5H13NO
reactant | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
solvent | thionyl chloride | 0.4 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-dimethylaminopropyl 4-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-3-fluorobenzoate | 140 mg | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C=C(C(=O)OCCCN(C)C)C=C2)F)C=C1)CCC)O | C26H34FNO6
